US06162944
Into a 200-ml four-necked flask provided with a reflux condenser, a thermometer and a stirrer were fed 7.0 g (0.125 mol) of an iron powder, 50 ml of water and 0.1 ml of 98% sulfuric acid. The resulting mixture was heated to 95° C. on an oil bath. Thereto was dropwise added, at 95 to 100° C. over 10 minutes, 11.3 g (0.05 mol) of the previously synthesized 3,4-difluoro-2-difluoromethoxy-nitrobenzene. The resulting mixture was stirred at the same temperature for 2.5 hours. Then, a Dean-Stark trap was fitted and the mixture was refluxed with heating, whereby an oily substance was separated as a fraction of azeotropic distillation with water. The aqueous layer was subjected to extraction with 100 ml of methylene chloride. The resulting methylene chloride layer was mixed with the oily substance. The resulting mixture was concentrated, and the resulting residue was subjected to vacuum distillation to obtain 7.1 g (yield: 72.8%) of 3,4-difluoro-2-difluoromethoxy-aniline (purity: 99.1%, boiling point: 76-78° C./6 mmHg).

reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3,4-difluoro-2-difluoromethoxy-nitrobenzene | FC=1C(=C(C=CC1F)[N+](=O)[O-])OC(F)F | C7H3F4NO3
catalyst | iron | 0.125 mol, 7.0 g | [Fe] | Fe
solvent | water | 50 ml | O | H2O
product | 3,4-difluoro-2-difluoromethoxy-aniline | 7.1 g, yield: 72.8% | FC=1C(=C(N)C=CC1F)OC(F)F | C7H5F4NO
